US07910595B2
4-Fluoro-3-nitro-phenylamine was reacted with 2,5-difluorobenzoyl chloride according to the procedure of Example 256a substituting 2,5-difluorobenzoyl chloride for thiophene-2-carbonyl chloride to provide 2,5-Difluoro-N-(4-fluoro-3-nitro-phenyl)-benzamide which was then reacted according to the procedures of Examples 256b and 256c to provide the title product.

reactant | 4-Fluoro-3-nitro-phenylamine | FC1=C(C=C(C=C1)N)[N+](=O)[O-] | C6H5FN2O2
reactant | 2,5-difluorobenzoyl chloride | FC1=C(C(=O)Cl)C=C(C=C1)F | C7H3ClF2O
reactant | thiophene-2-carbonyl chloride | S1C(=CC=C1)C(=O)Cl | C5H3ClOS
product | 2,5-Difluoro-N-(4-fluoro-3-nitro-phenyl)-benzamide | FC1=C(C(=O)NC2=CC(=C(C=C2)F)[N+](=O)[O-])C=C(C=C1)F | C13H7F3N2O3
